US04845210
m-Chloroperbenzoic acid (1 g) is added to a solution of trans-4-acetyl-3-[1-(tert-butyldimethylsilyloxy)ethyl]-2-azetidinone (0.23 g) in chloroform (15 ml), and the mixture is allowed to stand at room temperature for 15 hours and then poured into a mixture of ethyl acetate (100 ml), 5% aqueous sodium thiosulfate (50 ml) and aqueous sodium hydrogen carbonate (30 ml). The organic layer is separated, washed with aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure to give 0.23 g of trans-4-acetoxy-3-[1-(tert-butyldimethylsilyloxy)ethyl]-2-azetidinone.

reactant | m-Chloroperbenzoic acid | 1 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | trans-4-acetyl-3-[1-(tert-butyldimethylsilyloxy)ethyl]-2-azetidinone | 0.23 g | C(C)(=O)[C@H]1[C@@H](C(N1)=O)C(C)O[Si](C)(C)C(C)(C)C | C13H25NO3Si
reactant | sodium thiosulfate | 50 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | trans-4-acetoxy-3-[1-(tert-butyldimethylsilyloxy)ethyl]-2-azetidinone | 0.23 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)C(C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
